US07244739B2
1. 2-(3,4-Dichloro-phenyl)-thioacetamide (1213)
Hydrogen sulfide (gas) was bubbled into a solution of (3,4-dichloro-phenyl)-acetonitrile (1.86 g, 10 mmol, 1.0 eq)) and triethyl amine (10 mmol, 1 eq) in ethanol (10 ml) for about 1 hour. After 1 hour the reaction mixture capped and stirred at room temperature overnight. TLC showed that most of nitrile was converted to thioacteamide. Excess of H2S was removed by bubbling nitrogen into the reaction mixture for 30 min. The reaction mixture was then concentrated and purified by silica gel chromatography (ISCO system, 30–60% ethylacetate/hexane) to give the title compound (1213) (55% yield).

reactant | Hydrogen sulfide | S | H2S
reactant | (3,4-dichloro-phenyl)-acetonitrile | 10 mmol, 1.86 g, 1.0 eq | ClC=1C=C(C=CC1Cl)CC#N | C8H5Cl2N
reactant | triethyl amine | 10 mmol, 1 eq | C(C)N(CC)CC | C6H15N
reactant | thioacteamide | C(C)(=S)N | C2H5NS
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 2-(3,4-Dichloro-phenyl)-thioacetamide | 55% yield | ClC=1C=C(C=CC1Cl)CC(=S)N | C8H7Cl2NS
